US08309581B2
b) 4-{2-[1-(4-Methyl-cyclohexylmethyl)-1H-benzoimidazol-2-yl]-phenylethynyl}-benzonitrile
The title compound was prepared in analogy to Example 72, intermediate a, from 2-(2-bromo-phenyl)-1-(4-methyl-cyclohexylmethyl)-1H-benzoimidazole and 4-ethynyl-benzonitrile (CAS Reg. No. 3032-92-6). Light yellow liquid (25%). MS (Turbo Spray): m/z=430.4 (M+H).

reactant | 2-(2-bromo-phenyl)-1-(4-methyl-cyclohexylmethyl)-1H-benzoimidazole | BrC1=C(C=CC=C1)C1=NC2=C(N1CC1CCC(CC1)C)C=CC=C2 | C21H23BrN2
reactant | 4-ethynyl-benzonitrile | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
product | 4-{2-[1-(4-Methyl-cyclohexylmethyl)-1H-benzoimidazol-2-yl]-phenylethynyl}-benzonitrile | CC1CCC(CC1)CN1C(=NC2=C1C=CC=C2)C2=C(C=CC=C2)C#CC2=CC=C(C#N)C=C2 | C30H27N3
